US07786129B2
4-[4-(3-Chlorophenyl)-piperazin-1-yl]-but-2-in-1-ol dihydrochloride
1-(3-Chlorophenyl)-piperazine (19.7 g; 0.10 mole) is weighed to propargyl alcohol (11.8 ml; 0.20 mole), copper(II) acetate monohydrate (1.0 g; 5.2 mmoles) is added to it, and 37% aqueous formaline (50 ml) is pipetted to the reaction mixture under stirring. The green suspension is refluxed for 2 hours. Then it is cooled, water and chloroform are added to it and the pale green substance insoluble in both phases are filtered off. The aqueous phase is extracted twice with chloroform, the combined organic phases are dried over sodium sulfate and evaporated. The residual brown oil is dissolved in ethyl acetate, and a solution of 2 molar equivalents of hydrogen chloride in ethyl acetate is dropped to it under stirring. The separated white salt is filtered, digested while hot with isopropanol, cooled and filtered.

reactant | 1-(3-Chlorophenyl)-piperazine | 0.10 mole, 19.7 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | propargyl alcohol | 0.20 mole, 11.8 ml | C(C#C)O | C3H4O
reactant | formaline | 50 ml | C=O | CH2O
reactant | water | O | H2O
catalyst | copper(II) acetate monohydrate | 5.2 mmoles, 1.0 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(3-Chlorophenyl)-piperazin-1-yl]-but-2-in-1-ol dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CC#CCO | InChI=1S/C14H17ClN2O.2ClH/c15-13-4-3-5-14(12-13)17-9-7-16(8-10-17)6-1-2-11-18;;/h3-5,12,18H,6-11H2;2*1H
